US07381823B2
9 g of 2,4-dioxo-3-azaspiro[5,5]undecane and 30 g of 10% NaOH are placed in a 250 ml flask equipped with mechanical agitator, thermometer and condenser. The mixture is heated under reflux for 1 hour, cooled to 25° C. and acidified with 36% HCl to pH 5. The precipitate formed is filtered off, washed with water and dried under vacuum. 6.4 g of cyclohexanediacetic acid monoamide are obtained.

reactant | 2,4-dioxo-3-azaspiro[5,5]undecane | 9 g | O=C1CC2(CC(N1)=O)CCCCC2 | C10H15NO2
reactant | NaOH | 30 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
product | cyclohexanediacetic acid monoamide | 6.4 g | C1(CCCCC1)(CC(=O)N)CC(=O)O | C10H17NO3
